US09328099B2
Step A: tert-Butyl 4-(3-amino-4-carbamoyl-1H-pyrazol-1-yl)-4-(cyanomethyl)-3-fluoropiperidine-1-carboxylate
To a solution of tert-butyl (4E and 4Z)-4-(cyanomethylidene)-3-fluoropiperidine-1-carboxylate (800 mg, 3.33 mmol) in MeCN (10 mL) were added 3-amino-1H-pyrazole-4-carboxamide (350 mg, 2.78 mmol) and DBU (0.837 mL, 5.55 mmol). The solution was stirred at ambient temperature for 16 hours. The reaction mixture was diluted with EtOAc and washed with brine, dried over anhydrous MgSO4, filtered, and concentrated in vacuo. The oily residue was purified by MPLC on silica gel (0-100% EtOAc/hexanes) to afford the title compound as a mixture of diastereomers. LRMS (ESI) calc'd for C16H23FN6O3 [M+H]+: 367. Found: 367.

reactant | 4-(cyanomethylidene)-3-fluoropiperidine-1-carboxylate | 3.33 mmol, 800 mg | C(#N)C=C1C(CN(CC1)C(=O)[O-])F
reactant | 3-amino-1H-pyrazole-4-carboxamide | 2.78 mmol, 350 mg | NC1=NNC=C1C(=O)N | C4H6N4O
reactant | DBU | 5.55 mmol, 0.837 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | MeCN | 10 mL | CC#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-Butyl 4-(3-amino-4-carbamoyl-1H-pyrazol-1-yl)-4-(cyanomethyl)-3-fluoropiperidine-1-carboxylate | NC1=NN(C=C1C(N)=O)C1(C(CN(CC1)C(=O)OC(C)(C)C)F)CC#N | C16H23FN6O3
